US04661636
(b) 3-(1,1-dimethylethyl)-6-methoxybenzenesulfinic acid
10.7 g (0.04 mol) of 3-(1,1-dimethylethyl)-6-methoxybenzenesulfonyl chloride are introduced into a solution of 15 g of Na2SO3 and 4 g of NaOH in 100 ml of water. After adding a little acetone, the mixture is heated on a steam bath for 30 minutes, then filtered and the pH is adjusted to 2-3 with concentrated hydrochloric acid.

reactant | 3-(1,1-dimethylethyl)-6-methoxybenzenesulfonyl chloride | 0.04 mol, 10.7 g | CC(C)(C)C=1C=C(C(=CC1)OC)S(=O)(=O)Cl | C11H15ClO3S
reactant | Na2SO3 | 15 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaOH | 4 g | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 3-(1,1-dimethylethyl)-6-methoxybenzenesulfinic acid | CC(C)(C)C=1C=C(C(=CC1)OC)S(=O)O | C11H16O3S
